US20010027196A1
2-Amino-4-(pyridin-2-ylmethoxy) -6-thiophen-2-yl -pyrimidine -5-carbonitrile
From 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile, 2-(hydroxymethyl)pyridine and DBU in dioxane. EI-MS m/e (%): 309 (M+, 53), 308 ([M—H]+, 48), 292 ([M—NH3]+, 32), 108 (100), 92 (50), 65 (49).

reactant | 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1SC=CC1 | C10H8N4OS2
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-4-(pyridin-2-ylmethoxy) -6-thiophen-2-yl -pyrimidine -5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=CC=C1)C#N)C=1SC=CC1 | C15H11N5OS
